US04927926
Preparation of 1-cyclopropyl-6,8-difluoro-7-(3-methyl-3-trifluoroacetamido-1-azetidinyl)-4-oxo-3-quinolinecarboxylic acid.
A solution of 1 g (3.5 mmoles) of 1-cyclopropyl-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid, 1.15 g (5.3 mmoles) of 3-methyl-3-trifluoroacetamidoazetidine hydrochloride, 2 ml of triethylamine in 10 ml of pyridine is refluxed for 3 hours.

reactant | 1-cyclopropyl-6,7,8-trifluoro-4-oxo-3-quinolinecarboxylic acid | 3.5 mmoles, 1 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)F)F)=O)C(=O)O | C13H8F3NO3
reactant | 3-methyl-3-trifluoroacetamidoazetidine hydrochloride | 5.3 mmoles, 1.15 g | Cl.CC1(CNC1)NC(C(F)(F)F)=O
reactant | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 1-cyclopropyl-6,8-difluoro-7-(3-methyl-3-trifluoroacetamido-1-azetidinyl)-4-oxo-3-quinolinecarboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(C1)(NC(C(F)(F)F)=O)C)F)=O)C(=O)O | C19H16F5N3O4
